US07282501B2
A solution of nitromethane (2.02 mL, 37.3 mmol) in ethanol (10 mL) was treated with 10N NaOH (3.0 mL) at ambient temperature. A white solid precipitated immediately, and a solution of 5-benzyloxy-2-bromo-benzaldehyde (8.67 g, 29.8 mmol) in CH2Cl2 (50 mL) was added. The reaction mixture was stirred for 18 h and quenched with water (100 mL). The mixture was extracted with CH2Cl2 (2×50 mL), dried (Na2SO4), and concentrated to a residue, which was then purified by silica gel chromatography (hexanes/EtOAc 8/2) to afford 1-(5-benzyloxy-2-bromo-phenyl)-2-nitro-ethanol as yellow oil.

reactant | nitromethane | 37.3 mmol, 2.02 mL | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 10N, 3.0 mL | [OH-].[Na+]
reactant | 5-benzyloxy-2-bromo-benzaldehyde | 29.8 mmol, 8.67 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)Br | C14H11BrO2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-benzyloxy-2-bromo-phenyl)-2-nitro-ethanol | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(C[N+](=O)[O-])O)Br | C15H14BrNO4
